US07618983B2
2-(S)-Amino-3-[4-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-pyridazin-4-yl)-phenyl]-propionic acid (0.40 g, 1.0 mmol) was dissolved in MeOH (2.6 mL). Dimethoxypropane (0.26 mL) and 1N HCl in dioxane (0.33 mL) were added and stirred at room temperature for 24 h. The mixture was concentrated in vacuo to give 2-Amino-3-[4-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-pyridazin-4-yl)-phenyl]-propionic acid methyl ester. MS (ES+) 318.

reactant | 2-(S)-Amino-3-[4-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-pyridazin-4-yl)-phenyl]-propionic acid | 1.0 mmol, 0.40 g | N[C@H](C(=O)O)CC1=CC=C(C=C1)C=1C(N(N=CC1OC)C)=O | C15H17N3O4
reactant | Dimethoxypropane | 0.26 mL | COC(C)(C)OC | C5H12O2
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2.6 mL | CO | CH4O
solvent | dioxane | 0.33 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-3-[4-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-pyridazin-4-yl)-phenyl]-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)C=1C(N(N=CC1OC)C)=O)N)=O | C16H19N3O4
